*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/R(-55to125[deg])/4.70e-04[uF]/50[V]
* Murata P/N :GRM15XR11H471KA86
* Property : C = 4.70e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM15XR11H471KA86 Port1 Port2
C01 Port1 N01 4.90e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 2.36e-10
R03 N02 N03 4.06e-01
C04 N03 N04 4.24e-08
R04 N03 N04 3.62e+04
C05 N04 N05 8.26e-08
R05 N04 N05 1.58e+03
C06 N05 N06 7.74e-08
R06 N05 N06 1.90e+02
C07 N06 N07 6.17e-08
R07 N06 N07 2.68e+01
C08 N07 N08 7.20e-08
R08 N07 N08 4.33e+00
C09 N08 N09 2.81e-08
R09 N08 N09 1.76e+00
C10 N09 N10 1.27e-08
R10 N09 N10 5.85e-01
C11 N10 N11 3.31e-09
R11 N10 N11 2.84e-01
L12 N11 N12 1.61e-11
R12 N11 N12 4.30e-01
C13 N12 N13 3.83e-08
L13 N12 N13 1.65e-12
R13 N12 N13 6.93e-03
C14 N13 N14 9.63e-11
L14 N13 N14 3.51e-11
R14 N13 N14 3.67e-01
C15 N14 Port2 4.07e-12
L15 N14 Port2 7.22e-11
R15 N14 Port2 6.71e+00
.ENDS GRM15XR11H471KA86
